US04783537
To a mechanically-stirred, refluxing suspension of 5.85 g (0.15 mol) of NaNH2 in 150 ml of toluene, was added dropwise under N2, 50 ml of a toluene solution consisting of 16.3 g (0.1 mol) of N,N-dimethyl-phenylacetamide (prepared by reaction of phenylacetyl chloride and N,N-dimethylamine in CH2Cl2 solvent) in toluene, and the mixture was stirred at reflux for 4 hr. Then, 16.5 g (0.15 mol) of 2-(dimethylamino)ethyl chloride in 100 ml of toluene was added dropwise. The mixture was refluxed for 6 hr and then stirred at RT for 16 hr. Water (150 ml) was added to the mixture, and then the organic layer was separated and extracted with 1N HCl. The acid extract was basified in the cold with 2.5N NaOH and the basic solution extracted with Et2O. The ether extract was dried (Na2SO4), concentrated, and distilled to afford 18 g (76.8%) of N,N-dimethyl-4-dimethylamino-2-phenylbutanamide as a colorless oil, bp 108°-110°/0.2 mm.

reactant | N,N-dimethyl-phenylacetamide | 0.1 mol, 16.3 g | CN(C(CC1=CC=CC=C1)=O)C | C10H13NO
reactant | 2-(dimethylamino)ethyl chloride | 0.15 mol, 16.5 g | CN(CCCl)C | C4H10ClN
reactant | Water | 150 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-4-dimethylamino-2-phenylbutanamide | 18 g, 76.8% | CN(C(C(CCN(C)C)C1=CC=CC=C1)=O)C | C14H22N2O
